US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
To a solution of ({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amine (0.0294 g, 0.10 mmol) in DCM (1 mL) was added 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (0.0452 g, 0.10 mmol), HBTU (0.0417 g, 0.11 mmol), and TEA (0.0303 mL, 0.20 mmol) and was stirred at room temperature for 17 h. The reaction was quenched with H2O (1 drop), concentrated by Glas-Col evaporator and re-dissolved in MeOH/DMSO (0.5/0.1 mL). The resultant mixture was purified using a Gilson HPLC (with 0.1% TFA), concentrated by GeneVac EZ-2 evaporator and basified with an amine cartridge to afford the title compound 0.0432 g (59.34%). LC-MS m/z 728 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.37-1.44 (m, 3 H) 1.46-1.54 (m, J=7.28, 7.28 Hz, 5 H) 1.81-1.98 (m, 5 H) 2.05-2.13 (m, J=12.55 Hz, 2 H) 2.68 (d, J=6.53 Hz, 2 H) 2.78-2.86 (m, 3 H) 2.88-2.97 (m, 2 H) 3.15 (q, J=7.61 Hz, 2 H) 3.43-3.51 (m, J=12.30 Hz, 2 H) 3.67 (t, J=11.54 Hz, 2 H) 4.03 (d, J=11.80 Hz, 2 H) 4.30-4.41 (m, 1 H) 4.47 (q, J=7.19 Hz, 2 H) 4.65 (s, 2 H) 4.71 (s, 2 H) 7.17 (d, J=7.53 Hz, 1 H) 7.33-7.53 (m, 6 H) 7.59-7.66 (m, 2 H) 8.05 (dd, J=7.91, 1.63 Hz, 2 H) 8.29 (s, 1 H) 8.39 (s, 1 H).

reactant | ({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amine | 0.10 mmol, 0.0294 g | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CN | C20H26N2
reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 0.10 mmol, 0.0452 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | HBTU | 0.11 mmol, 0.0417 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 0.0432 g, 59.34% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C)CC | C44H53N7O3
